.title Boost 5V to 15V - 62768 energy system
S1 sw 0 gate 0 MYSW
.model MYSW SW(Ron=20m Roff=1Meg Vt=2.5 Vh=0.1)
.tran 0 25m 0 1u
.meas TRAN Vout_avg AVG V(out) FROM 24m TO 25m
.meas TRAN Vout_pp  PP  V(out) FROM 24m TO 25m
.meas TRAN IL_pp    PP  I(L1)  FROM 24m TO 25m

Vin in 0 5.0V
Vgate gate 0 DC 0V PULSE(0V 5V 0s 10ns 10ns 1.3333333333333337e-05s 2e-05s)
L1 in sw 0.00047H
D1 sw out MYDIODE
C1 out 0 4.7e-05
Rload out 0 100.0Ohm
.model MYDIODE D (IS=1e-09 N=1 RS=0.02)
.end
