.title Buck 15V to 5V - 62768 energy system
S1 in sw gate 0 MYSW
.model MYSW SW(Ron=20m Roff=1Meg Vt=2.5 Vh=0.1)
.tran 0 5m 0 1u
.meas TRAN Vout_avg AVG V(out) FROM 4m TO 5m
.meas TRAN Vout_pp  PP  V(out) FROM 4m TO 5m
.meas TRAN IL_pp    PP  I(L1)  FROM 4m TO 5m

Vin in 0 15.0V
Vgate gate 0 DC 0V PULSE(0V 5V 0s 10ns 10ns 6.666666666666667e-06s 2e-05s)
D1 0 sw MYDIODE
L1 sw out 0.00047H
C1 out 0 4.7e-05
Rload out 0 10.0Ohm
.model MYDIODE D (IS=1e-09 N=1 RS=0.02)
.end
